US07217724B2
To a solution of (7-((diethylamino)carbonyl)-1H-indol-3-yl)acetic acid (2.38 g, 8.68 mmol) in methanol (10 mL) is added a 10% hydrogen chloride solution in methanol (30 mL) under nitrogen atmosphere, and the mixture is refluxed for 30 minutes. The reaction solution is cooled to room temperature, and the solvent is distilled off. To the residue is added chloroform, and the mixture is washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is removed by distillation, and the resultant crude product is purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1→ethyl acetate) to give methyl (7-((diethylamino)carbonyl)-1H-indol-3-yl)acetate (1.93 g, yield: 77%).

reactant | (7-((diethylamino)carbonyl)-1H-indol-3-yl)acetic acid | 8.68 mmol, 2.38 g | C(C)N(C(=O)C=1C=CC=C2C(=CNC12)CC(=O)O)CC | C15H18N2O3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 10 mL | CO | CH4O
reactant | methanol | 30 mL | CO | CH4O
product | methyl (7-((diethylamino)carbonyl)-1H-indol-3-yl)acetate | 1.93 g, yield: 77% | C(C)N(C(=O)C=1C=CC=C2C(=CNC12)CC(=O)OC)CC | C16H20N2O3
